US08541411B2
Preparation of methyl 2-methyl-6-(4-morpholinyl)-1-(8-quinolinylmethyl)-1H-benzimidazole-4-carboxylate
A mixture of methyl 2-methyl-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate, prepared as described in Example 26, step d (500 mg, 1.82 mmol), K2CO3 (502 mg, 3.64 mmol) and 5-(bromomethyl)quinoline (424 mg, 1.91 mmol) in DMF (25 mL) was stirred at 80° C. for 18 h. The reaction mixture was cooled, poured into water (100 mL) and extracted with EtOAc (50 mL×3). The combined organic layers were dried by Na2SO4 and concentrated. The resulting residue was purified by silica gel chromatography eluted with EtOAc:MeOH=100:1 to give the crude product (350 mg, 46%), finally it was purified by Prep-HPLC to give the product (180 mg, 24%) as a red solid. 1H NMR (300 MHz, DMSO-d6): δ ppm 2.52 (s, 3H), 3.03 (t, 4H, J=4.8 Hz), 3.70 (t, 4H, J=4.8 Hz), 3.88 (s, 3H), 6.08 (s, 2H), 6.87 (d, 1H, J=7.5 Hz), 7.31 (d, 1H, J=2.1 Hz), 7.36 (d, 1H, J=2.1 Hz), 7.48 (t, 1H, J=7.5 Hz), 7.66 (dd, 1H, J=4.2, 8.4 Hz), 7.93 (d, 1H, J=7.5 Hz), 8.44 (dd, 1H, J=1.8, 8.4 Hz), 9.05 (dd, 1H, J=1.8, 4.2 Hz); LC-MS: m/e=417 [M+1]+

reactant | methyl 2-methyl-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate | CC1=NC2=C(N1)C(=CC(=C2)N2CCOCC2)C(=O)OC | C14H17N3O3
reactant | K2CO3 | 3.64 mmol, 502 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-(bromomethyl)quinoline | 1.91 mmol, 424 mg | BrCC1=C2C=CC=NC2=CC=C1 | C10H8BrN
reactant | water | 100 mL | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | methyl 2-methyl-6-(4-morpholinyl)-1-(8-quinolinylmethyl)-1H-benzimidazole-4-carboxylate | 180 mg, 24% | CC1=NC2=C(N1CC=1C=CC=C3C=CC=NC13)C=C(C=C2C(=O)OC)N2CCOCC2 | C24H24N4O3
